US08871796B2
1,4-difluoro-2-nitrobenzene (2.06 g, 9.85 mmol, 3 equiv) was added to a stirring mixture of 3-(1-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)benzonitrile (0.70 g, 3.28 mmol, 1 equiv) and potassium carbonate (1.36 g, 9.85 mmol, 3 equiv) in DMSO (6.57 mL). The reaction mixture was stirred at 80° C. for 20 minutes then cooled to 22° C. and diluted with water. The mixture was extracted with ethyl acetate, and then the organic layer was washed sequentially with water (two times) and saturated aqueous sodium chloride. The washed solution was dried over anhydrous magnesium sulfate. The drying agent was filtered, and the filtrate was concentrated in vacuo to give the 3-[1-ethyl-5-(4-fluoro-2-nitrophenoxy)-1H-pyrazol-3-yl]benzonitrile. The crude reaction product was taken into the next step without further purification. Calcd (M+1)+: 353.1. Found: 353.2.

reactant | 1,4-difluoro-2-nitrobenzene | 9.85 mmol, 2.06 g, 3 equiv | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 3-(1-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)benzonitrile | 3.28 mmol, 0.70 g, 1 equiv | C(C)N1NC(=CC1=O)C=1C=C(C#N)C=CC1 | C12H11N3O
reactant | potassium carbonate | 9.85 mmol, 1.36 g, 3 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 6.57 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-[1-ethyl-5-(4-fluoro-2-nitrophenoxy)-1H-pyrazol-3-yl]benzonitrile | C(C)N1N=C(C=C1OC1=C(C=C(C=C1)F)[N+](=O)[O-])C=1C=C(C#N)C=CC1 | C18H13FN4O3
